### PR TITLE
feat(Topology/Algebra/Valued): `IsLinearTopology 𝒪[K] K` and `𝒪[K] 𝒪[K]`

### PR DESCRIPTION
**Pull request by pechersky**
as well as
`IsLinearTopology ℤ_[p] ℤ_[p]`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #26829

### CODE REVIEW

**Comment by loefflerd** [comment]
Looks like you have updated the proofs not to require DVR assumptions, but you have not updated the lemma names to match?

If the comment about Qp not being `Valued` is correct, then how can the lines immediately below work?

File: Mathlib/Topology/Algebra/Valued/ValuedField.lean [hunk 1]
```diff
@@ -379,3 +379,32 @@ scoped notation "𝓀[" K "]" => ResidueField K
...
+        rwa [Valued.v.pos_iff]
+      suffices IsOpen {x⁻¹} by
+        simp only [isOpen_iff_mem_nhds, Set.mem_singleton_iff, forall_eq] at this ⊢
+        have := continuousAt_inv₀ hx0 this
+        rw [Filter.mem_map] at this
+        simpa using this
+      have : IsOpen ({⟨x⁻¹, hx⟩} : Set 𝒪[K]) := isOpen_discrete _
+      simpa using hk.isOpenMap_subtype_val _ this
+  · intro h
+    infer_instance
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/Valued/ValuedField.lean:410]: 🏌️ 
```suggestion
  refine ⟨fun _ ↦ singletons_open_iff_discrete.mp fun x ↦ ?_, fun _ ↦ inferInstance⟩
  have hk : IsOpen (𝒪[K] : Set K) := isOpen_integer K
  rcases le_total (Valued.v x) 1 with hx | hx
  · simpa using hk.isOpenMap_subtype_val _ (show IsOpen {⟨x, hx⟩} from isOpen_discrete _)
  · have hx0 : x ≠ 0 := v.pos_iff.mp <| hx.trans_lt' zero_lt_one
    replace hx : Valued.v x⁻¹ ≤ 1 := by rwa [map_inv₀, inv_le_one₀ (zero_lt_one.trans_le hx)]
    have h1 : IsOpen ({⟨x⁻¹, hx⟩} : Set 𝒪[K]) := isOpen_discrete _
    have h2 : IsOpen {x⁻¹} := by simpa using hk.isOpenMap_subtype_val _ h1   
    simp only [isOpen_iff_mem_nhds, Set.mem_singleton_iff, forall_eq] at h2
    simpa [isOpen_iff_mem_nhds, -Filter.map_inv] using continuousAt_inv₀ hx0 h2
```

File: Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean [hunk 2]
```diff
@@ -0,0 +1,31 @@
...
+Conversely, we rely on the `Valued ℚ_[p] ℝ≥0` instance to that the p-adic integers have
+a linear topology via `IsLinearTopology.of_valued`. We transfer that back to
+`IsLinearTopology ℤ_[p] ℤ_[p]` via the definitional equality.
+-/
+
+variable {p : ℕ} [Fact (Nat.Prime p)]
+
+section
+open NormedField Valued
+instance : IsDiscreteValuationRing 𝒪[ℚ_[p]] := inferInstanceAs (IsDiscreteValuationRing ℤ_[p])
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean:29]: This instance is just a temporary one for the next proof, right? So we should probably make it local, or just inline it in the next proof.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+## Main Results
+* `IsLinearTopology.of_valued`: for a valued field `K`,
+  the valuation ring `𝒪[K]` has a linear topology
+
+-/
+open Valued Filter Topology
+
+variable {K Γ₀ : Type*} [Field K] [LinearOrderedCommGroupWithZero Γ₀] [Valued K Γ₀]
+
+instance IsLinearTopology.of_valued :
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean:21]: Do we have `IsLinearTopology 𝒪[K] K` under these hypotheses too? It seems like that might be useful.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 4]
```diff
@@ -0,0 +1,75 @@
...
+    IsLinearTopology 𝒪[K] 𝒪[K] := by
+  by_cases hd : DiscreteTopology K
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean:23]: This proof needs some comments to explain the logic; there's a rule of thumb that you shouldn't usually have more than 10 lines of tactic code in a row without a comment.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+    infer_instance
+  rw [isLinearTopology_iff_hasBasis_ideal]
+  have := (hasBasis_nhds_zero K Γ₀).comap (Subtype.val : 𝒪[K] → K)
+  have hn0 : 𝓝 (0 : 𝒪[K]) = comap Subtype.val (𝓝 0) := nhds_induced Subtype.val 0
+  rw [← hn0] at this
+  refine this.to_hasBasis ?_ ?_
+  · intro y _
+    let I : Set 𝒪[K] := {x : 𝒪[K] | Valued.v (x : K) < y}
+    lift I to Ideal 𝒪[K] with I' hI'
+    · simp only [Set.mem_setOf_eq, ZeroMemClass.coe_zero, map_zero, Subring.coe_add,
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean:34]: This seems to be showing that the subset of `𝒪[K] ` of valuation `< y` is an ideal, for any `y`, and that sounds like something worth splitting off into a separate lemma (& likewise the statement that the corresponding subset of `K` is an `𝒪[K]`-submodule).

File: Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean:29]: (It also seems rather convoluted that this instance is un-scoped, but _stating_ it requires the `Valued` instance which is scoped!)

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean:29]: Trying to future proof, for the world when we'll have other nonarchimedean valued fields, like (finite) extensions, one would have `Algebra 𝒪[ℚ_[p]] 𝒪[K]`:
```
import Mathlib

open Multiplicative NormedField Polynomial Valued
variable {p : ℕ} [Fact (Nat.Prime p)]
#synth Algebra (ℚ_[p]) (AdjoinRoot (R := ℚ_[p]) (X ^ 2 - 2))
instance : Fact (Nat.Prime 5) := ⟨Nat.prime_five⟩
#synth NormedField (AdjoinRoot (R := ℚ_[5]) (X ^ 2 - 2)) -- currently missing
instance : Valued ((AdjoinRoot (R := ℚ_[5]) (X ^ 2 - 2))) ℤₘ₀ := sorry

instance : Fact (Irreducible (X ^ 2 - 2 : Polynomial (ℚ_[5]))) := sorry

instance : Valuation.HasExtension
    (Valued.v : Valuation (ℚ_[5]) NNReal)
    (Valued.v : Valuation (AdjoinRoot (R := ℚ_[5]) (X ^ 2 - 2)) ℤₘ₀) := sorry

noncomputable
instance : Algebra 𝒪[ℚ_[5]] 𝒪[(AdjoinRoot (R := ℚ_[5]) (X ^ 2 - 2))] :=
  Valuation.HasExtension.instAlgebraInteger
```

So being able to work with the `𝒪` form of a field is useful. For this particular PR, I was hoping to use this IsDVR in my work in formalizing the classification of locally compact nonarchimedean char zero fields, as the finite extensions of Q_p. This involves expressing an element of `𝒪[K]` of such a field as a power series over "digits", with the evaluation topology (which is why I need the `IsLinearTopology`). Then, one can find a basis of digits in Z_p (giving `f`) and also the ramification `e`. The topology works if there is a uniformizer, which is what I need the `IsDVR` for. The proof strategy is from https://math.stackexchange.com/a/3121202/1452351.

I can remove the instance for now, if you prefer.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean:29]: Yes, the scoped vs unscoped isn't great. Really, the `𝒪[K]` should be "equal" for any valuation codomain, but right now, they are not, there is a unique one for each `G` due to how `Valued K G` works.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/PadicLinearTopology.lean:29]: Agreed, ideally the "valuation ring" doesn't actually rely on the specific choice of valuation. This is part of a larger discussion that has been happening on Zulip wrt to Valued and nonarchimedean fields in general.

For the purposes of this PR, would it be simpler to remove the IsDVR instance? Or possibly place it in the `scoped`?

**Review by loefflerd — COMMENTED** [review]
Wow, you really worked hard and fast on this in response to my last set of comments! Here is some feedback on the changes in `ValuedField`, will look at the rest later.

**Comment by pechersky** [comment]
I'll factor out the ideal and submodule constructions into a different pr, those should be defined via Valuation.ltAddSubgroup anyway.

**Comment by ADedecker** [comment]
I don't know what the conventions are in this corner of the library, but shouldn't we also have a statement for any `Valuation` instead of a canonical one coming from `Valued`? I really don't know, so feel free to say "no".

**Comment by faenuccio** [comment]
> I don't know what the conventions are in this corner of the library, but shouldn't we also have a statement for any `Valuation` instead of a canonical one coming from `Valued`? I really don't know, so feel free to say "no".

The point is that `Valued` combines the valuation and the topology, so it makes sense to (hope that one can) state results connecting the two. Otherwise, you can put a highly non-continuous valuation (or at any rate unrelated to the topology) on a topological ring, and then you can't basically prove anything. Or did I misunderstand your question?

**Comment by ADedecker** [comment]
:facepalm: 

No, you're right, I missed that `Valued` included the compatibility with the toplogy. You can ignore my previous comment :sweat_smile:

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 6]
```diff
@@ -0,0 +1,41 @@
...
+    IsLinearTopology 𝒪[K] K := by
+  rw [isLinearTopology_iff_hasBasis_open_submodule]
+  apply (hasBasis_nhds_zero K Γ₀).to_hasBasis
+  · exact fun r _ ↦ ⟨v.ltSubmodule r, isOpen_ltSubmodule _ _, subset_rfl⟩
+  · intro I hI
+    simpa [mem_nhds_zero] using hI.mem_nhds I.zero_mem
+
+instance IsLinearTopology.of_valued' :
+    IsLinearTopology 𝒪[K] 𝒪[K] := by
+  have : IsLinearTopology 𝒪[K] K := inferInstance
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean]: Do you understand why we need this line?

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 7]
```diff
@@ -0,0 +1,41 @@
...
+instance IsLinearTopology.of_valued :
+    IsLinearTopology 𝒪[K] K := by
+  rw [isLinearTopology_iff_hasBasis_open_submodule]
+  apply (hasBasis_nhds_zero K Γ₀).to_hasBasis
+  · exact fun r _ ↦ ⟨v.ltSubmodule r, isOpen_ltSubmodule _ _, subset_rfl⟩
+  · intro I hI
+    simpa [mem_nhds_zero] using hI.mem_nhds I.zero_mem
+
+instance IsLinearTopology.of_valued' :
+    IsLinearTopology 𝒪[K] 𝒪[K] := by
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean:47]: Is there a way to make this rely less on the specific defeq of the ring of integers? And more on a predicate that asserts that `K` is the ring of fractions of some domain `𝒪` (+ suitable hyps, of course)

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/LinearTopology.lean:47]: Is this comment about `IsLinearTopology 𝒪[K] K` in particular?

Comment (jcommelin) [reply Mathlib/Topology/Algebra/Valued/LinearTopology.lean:47]: Not too particular. I'm generally somewhat concerned about API relying on such defeqs. If you think that concern should be dealt with in a separate PR, than I think that's fair.
I'm interested in what you think about this.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/LinearTopology.lean]: The line is needed because I do a rewrite against it below.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean (hunk 7 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/LinearTopology.lean:47]: Let me know if the generalization is acceptable.

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean [hunk 8]
```diff
@@ -0,0 +1,69 @@
...
+-/
+
+open Valued Filter Topology
+
+-- TODO: find a better home for this
+lemma IsLinearTopology.of_isOpenEmbedding {R K : Type*} [CommRing R] [rTop : TopologicalSpace R]
+    [ContinuousAdd R] [hl : IsLinearTopology R R]
+    [CommRing K] [kTop : TopologicalSpace K] [ContinuousAdd K] -- inferrable from ContinuousAdd R?
+    [Algebra R K] (h : IsOpenEmbedding (algebraMap R K)) :
+    IsLinearTopology R K := by
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/LinearTopology.lean:27]: This looks good to me.
Does `#find_home` give something useful?

File: Mathlib/Topology/Algebra/Valued/LinearTopology.lean (hunk 7 above)
Comment (jcommelin) [reply Mathlib/Topology/Algebra/Valued/LinearTopology.lean:47]: I'm happy to merge this for now. But eventually we should transition the API away from `𝒪[K]`, and state everything in terms of predicates.

File: Mathlib/Topology/Algebra/Valued/ValuedField.lean [hunk 9]
```diff
@@ -441,3 +441,30 @@ scoped notation "𝓀[" K "]" => ResidueField K
 end Valued
 
 end Notation
+
+namespace Valued
+
+variable (K : Type*) {Γ₀ : Type*} [Field K] [LinearOrderedCommGroupWithZero Γ₀] [Valued K Γ₀]
+
+lemma isOpenEmbedding_algebraMap_integer :
+    Topology.IsOpenEmbedding (algebraMap 𝒪[K] K) :=
```
Comment (jcommelin) [inline Mathlib/Topology/Algebra/Valued/ValuedField.lean:450]: Eg results like the ones you add here should probably also generalize away from the defeq ring of integers.

**Comment by pechersky** [comment]
> But eventually we should transition the API away from 𝒪[K], and state everything in terms of predicates.

Fair, but what is the predicate that is available to TC search? `Valuation.Integer` is not a class (not sure it should be). Should it be  about integral closures?

**Comment by pechersky** [comment]
Superseded by #42817
